US05401772
A solution of 2.77 g (7.3 mmol) of (4-fluorophenyl)[2-hydroxy-5-(2,6-dimethyl-4-nitrophenoxy) phenyl]methanone in 200 ml ethyl acetate with 1.0 g of 10% palladium on carbon is hydrogenated on a Parr apparatus for 2.5 hours at 50 psi and room temperature, then filtered and evaporated to give [5-(4-amino-2,6-dimethylphenoxy)-2-hydroxyphenyl](4-fluorophenyl)methanone.

reactant | (4-fluorophenyl)[2-hydroxy-5-(2,6-dimethyl-4-nitrophenoxy) phenyl]methanone | 7.3 mmol, 2.77 g | FC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)O | C21H16FNO5
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | [5-(4-amino-2,6-dimethylphenoxy)-2-hydroxyphenyl](4-fluorophenyl)methanone | NC1=CC(=C(OC=2C=CC(=C(C2)C(=O)C2=CC=C(C=C2)F)O)C(=C1)C)C | C21H18FNO3
